US08426447B2
A pressure tubel was charged with 2′-bromo-N-tert-butyl-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine (0.150 g, 0.312 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.237 g, 0.935 mmol), potassium acetate (0.092 g, 0.935 mmol), XPhos (0.030 g, 0.062 mmol), diacetoxypalladium (7.00 mg, 0.031 mmol), and 1,4-dioxane (3.0 mL, 0.312 mmol). The tube was purged with Argon, sealed, and heated to 100° C. After 18 hrs the dark mixture was filtered over celite with EtOAc. The filtrate was concentrated in vacuo and purified by silica gel chromatography using 25-50% Hexanes:EtOAc to afford N-tert-butyl-2′-(pyrimidin-5-yl)-7′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine as a white foam. MH+=529.2.

reactant | 2′-bromo-N-tert-butyl-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine | 0.312 mmol, 0.150 g | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(SC3)NC(C)(C)C | C23H21BrN4OS
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.935 mmol, 0.237 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.935 mmol, 0.092 g | C(C)(=O)[O-].[K+]
reactant | XPhos | 0.062 mmol, 0.030 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 1,4-dioxane | 0.312 mmol, 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | diacetoxypalladium | 0.031 mmol, 7.00 mg | C(C)(=O)O[Pd]OC(C)=O
product | N-tert-butyl-2′-(pyrimidin-5-yl)-7′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine | C(C)(C)(C)NC=1SCC2(C3=CC(=CC=C3OC=3C=CC(=CC23)C=2C=NC=NC2)B2OC(C(O2)(C)C)(C)C)N1 | C29H33BN4O3S
